US08304446B2
N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(1-hydroxy-1-methylethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide
Methylmagnesium bromide (3M solution in diethyl ether) (0.730 mL, 2.191 mmol) was added slowly dropwise to a stirring solution of 1,1-dimethylethyl({3-[(4-acetyl-3-{[(5-chloro-2-thienyl)sulfonyl]amino}-1H-indazol-1-yl)methyl]phenyl}methyl)carbamate (for a preparation see Intermediate 76) (210 mg, 0.365 mmol) in THF (3 mL) at room temp. The reaction was stirred for 2 h and then more methylmagnesium bromide (3M solution in diethyl ether) (0.730 mL, 2.191 mmol) was added and stirred overnight. LCMS indicated molecular ion 592 [M+1] corresponding to the desired alcohol and that the starting material co-eluted with the product. 1N HCl (5 mL) was added and the product was extracted with EtOAc (15 mL×3). The combined organic layers were dried by passing through a hydrophobic frit and concentrated in vacuo. The residue was dissolved in 4N HCl in Dioxane (2 mL, 8.00 mmol) and the reaction was stirred at room temp over 1 h. The reaction mixture was loaded on an SCX-2 ion-exchange 20 g cartridge eluting with methanol and 2M ammonia in methanol. The appropriate ammoniacal fractions were combined and evaporated in vacuo to give the title compound (168 mg, 76%) as a brown oil. LCMS (System A) RT=0.79 min, ES+ve m/z 491/493 (M+H)+.

reactant | Methylmagnesium bromide | 2.191 mmol, 3M, 0.730 mL | C[Mg]Br
reactant | 1,1-dimethylethyl({3-[(4-acetyl-3-{[(5-chloro-2-thienyl)sulfonyl]amino}-1H-indazol-1-yl)methyl]phenyl}methyl)carbamate | CC(C)(C)N(C([O-])=O)CC1=CC(=CC=C1)CN1N=C(C2=C(C=CC=C12)C(C)=O)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | methylmagnesium bromide | 2.191 mmol, 3M, 0.730 mL | C[Mg]Br
reactant | Dioxane | 8.00 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | HCl | 4N | Cl | ClH
solvent | HCl | 1N, 5 mL | Cl | ClH
product | N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(1-hydroxy-1-methylethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | 168 mg, 76% | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(C)(C)O)NS(=O)(=O)C=1SC(=CC1)Cl | C22H23ClN4O3S2
